US09399623B2
6-Chloro-2-(3-methoxy-propylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (77)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and 3-methoxy-propylamine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.70 (t, J=5.8 Hz, 1H), 7.59 (d, J=9.2 Hz, 1H), 7.47-7.50 (m, 2H), 7.24 (t, J=5.4 Hz, 1H), 6.82 (d, J=9.2 Hz, 1H), 3.39-3.42 (m, 4H), 3.20-3.22 (m, 5H), 2.01-2.03 (m, 2H), 1.73-1.85 (m, 7H), 1.22-1.31 (m, 2H). m/z: 426.0 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 3-methoxy-propylamine | COCCCN | C4H11NO
product | 6-Chloro-2-(3-methoxy-propylamino)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)NCCCOC)F | C21H26ClF2N3O2
